Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left ankle pain s/p fall
 
Major Surgical or Invasive Procedure:
___
Application external fixator  to left intra-rticular ankle 
fracture.
___ 
Removal of external fixator under anesthesia.
ORIF distal tibia fracture with anterior and medial plating.
Closed treatment fibular fracture.

 
History of Present Illness:
___ y/o female who sustained a left ankle fracture in
___ 4 days ago.  She was on the beach when she twisted her
left ankle and fell to the ground.  She was taken to an OSH 
where
she was diagnosed with a bimal ankle fracture.  She was told she
needed surgery but insurance would not cover it.  They placed 
her
in a cast and sent her to the States for further management.  
She
denies numbness/tingling.  She presents in a cast.  

 
Past Medical History:
depression, pain s/p thumb amputation in ___

 
Social History:
___
Family History:
NC
 
Physical Exam:
PE:  
AVSS
NAD, AOx3

BUE skin clean and intact
No tenderness, deformity, erythema, edema, induration or 
ecchymosis
Arms and forearms are soft
No pain with passive motion
R M U ___
EPL FPL EIP EDC FDP FDI fire
2+ radial pulses

LLE skin clean and intact with bivalve cast in place
Mild ecchymosis at left ankle, no erythema, edema, induration or 
fluctuance 
Thighs and legs are soft
Pain with passive motion at ankle, appropriate to post op exam
Saph Sural DPN SPN MPN LPN ___ FHL ___ TA PP Fire
1+ ___ and DP pulses

Contralateral extremity examined with good range of motion, 
SILT, motors intact and no pain or edema

 
Pertinent Results:
___ 04:50AM   WBC-6.2 RBC-3.55* HGB-11.7* HCT-35.8* 
MCV-101* MCH-33.0* MCHC-32.7 RDW-11.8
___ 04:50AM   ___ PTT-30.3 ___
___ 04:50AM   GLUCOSE-128* UREA N-14 CREAT-0.7 SODIUM-142 
POTASSIUM-3.5 CHLORIDE-105 TOTAL CO2-29 ANION GAP-12
 
Brief Hospital Course:
The patient was admitted to the Orthopaedic Trauma Service for 
repair of a left pilon fracture. The patient was taken to the OR 
and underwent underwent urgent external fixation on ___. A 
DVT study was also done and was negative for any clots.  Once 
the soft tissue swelling resolved and she was deemed safe for 
definitive surgical repair, we proceeded with part two of a 
staged procedure with removal of the ex-fix and open reduction 
internal fixation of the pilon fracture on ___. The patient 
tolerated both procedures without complications and was 
transferred to the PACU in stable condition.  Please see 
operative report for details. Post operatively pain was 
controlled with a PCA with a transition to PO pain meds once 
tolerating POs.  The patient tolerated diet advancement without 
difficulty and made steady progress with ___.

Weight bearing status: Non-weight bearing in bivalve cast.

The patient received ___ antibiotics as well as 
Lovenox for DVT prophylaxis.  The incision was clean, dry, and 
intact without evidence of erythema or drainage; and the 
extremity was NVI distally throughout.  The patient was 
discharged in stable condition with written instructions 
concerning precautionary instructions and the appropriate 
follow-up care.  The patient will be continued on chemical DVT 
prophylaxis for 4 weeks post-operatively.  All questions were 
answered prior to discharge and the patient expressed readiness 
for discharge.

 
Medications on Admission:
 albuterol prn, buproprio 300mg ER QD, citalopram 20mg QD,
fluticasone prn, oxcarbazepine 300mg BID, lyrica 200mg BID,
omeprazole.

 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
2. citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. oxcarbazepine 150 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).  
4. pregabalin 200 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
5. bupropion HCl 150 mg Tablet Extended Release Sig: One (1) 
Tablet Extended Release PO BID (2 times a day).  
6. enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) Syringe 
Subcutaneous QPM (once a day (in the evening)) for 2 weeks.
Disp:*14 Syringe* Refills:*0*
7. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
8. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
9. camphor-menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical 
QID (4 times a day) as needed for pruritis.  
10. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for Pain.
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left Distal tibia pilon fracture with fibula fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
******SIGNS OF INFECTION**********

Please return to the emergency department or notify MD if you 
should experience severe pain, increased swelling, decreased 
sensation, difficulty with movement; fevers >101.5, chills, 
redness or drainage at the incision site; chest pain, shortness 
of breath or any other concerns.

-Wound Care: You can get the wound wet/take a shower starting 
from 3 days post-op. Always remove your bivalve cast when taking 
a shower, do not get it wet.  You may continue dry sterile 
dressings with ABD pad to the wound, and wrap with kerlix or ace 
wrap.  No baths or swimming for at least 4 weeks. Any stitches 
or staples that need to be removed will be taken out at your 
2-week follow up appointment. No dressing is needed if wound 
continued to be non-draining.   

******WEIGHT-BEARING*******

Left lower extremity: Non-weight bearing  

******MEDICATIONS***********

- Resume your pre-hospital medications.

- You have been given medication for your pain control. Please 
do not operate heavy machinery or drink alcohol when taking this 
medication. As your pain improves please decrease the amount of 
pain medication. This medication can cause constipation, so you 
should drink ___ glasses of water daily and take a stool 
softener (colace) to prevent this side effect.

-Medication refills cannot be written after 12 noon on ___.

*****ANTICOAGULATION******

- Take Lovenox for DVT prophylaxis for 2 weeks post-operatively. 
 
 
******FOLLOW-UP**********

Please follow up with ___ in ___ days 
post-operation for evaluation and staple/suture removal. Call 
___ to schedule appointment upon discharge.

Please follow up with your PCP regarding this admission and any 
new medications/refills.
Physical Therapy:
Activity as tolerated
Left lower extremity:  Non weight bearing

Treatments Frequency:
Patient may get the wound wet/take a shower starting from 3 days 
post-op. Always remove bivalve cast when taking a shower, do not 
get it wet.  ___ continue dry sterile dressings with ABD pad to 
the wound, and wrap with kerlix or ace wrap.  No baths or 
swimming for at least 4 weeks. Any stitches or staples that need 
to be removed will be taken out at 2-week follow up appointment. 
No dressing is needed if wound continued to be non-draining. 

 
Followup Instructions:
___